US06818655B2
a) 1-Cyano-cyclohexanecarboxylic Acid Amide
1-Cyano-cyclohexanecarboxylic acid ethyl ester (11.4 g, 63.0 mmol) was placed into a glass pressure vessel and cooled to −78° C. It was charged with ammonia via needle until the total volume had doubled. The vessel was sealed and allowed to stir at room temperature for 20 hours. The solvent was evaporated and the resulting slurry triturated with ethyl acetate. The solids were collected by filtration and then filtered through a silica funnel (50 g silica), washing with ethyl acetate. The filtrate was concentrated to give the product (2.51 g, 26%) as a white solid. [M+H]+ 153.

reactant | 1-Cyano-cyclohexanecarboxylic acid ethyl ester | 63.0 mmol, 11.4 g | C(C)OC(=O)C1(CCCCC1)C#N | C10H15NO2
reactant | ammonia | N | H3N
product | 1-Cyano-cyclohexanecarboxylic Acid Amide | 2.51 g, 26% | C(#N)C1(CCCCC1)C(=O)N | C8H12N2O
